US05998436
Synthesis of 2-benzylamino-4-amino-5-fluoropyridine
To 1 ml of N-methylpyrrolidone was added 410 mg of 4-amino-2,5-difluoropyridine together with 930 mg of benzylamine, and the mixture was allowed to react in nitrogen atmosphere at 150° C. for 3 days and allowed to cool. After adding 30 ml of chloroform, the mixture was washed twice with 300 ml of distilled water. The chloroform layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to column chromatography (silica gel, 15 g; eluent:chloroform:methanol, 1:0 and then, 50:1) to obtain 400 mg of the title compound as a colorless solid.

reactant | N-methylpyrrolidone | 1 ml | CN1C(CCC1)=O | C5H9NO
reactant | 4-amino-2,5-difluoropyridine | 410 mg | NC1=CC(=NC=C1F)F | C5H4F2N2
reactant | benzylamine | 930 mg | C(C1=CC=CC=C1)N | C7H9N
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-benzylamino-4-amino-5-fluoropyridine | 400 mg | C(C1=CC=CC=C1)NC1=NC=C(C(=C1)N)F | C12H12FN3
